US06316467B1
4-[(Aminothioxomethyl)-hydrazono]-N-methyl-4-phenylbutanamide
Thiosemicarbazide (2.60 g, 28.5 mmol) was added to a solution of N-methyl4-oxo-4-phenyl-butyramide (3.33 g, 17.4 mmol), prepared in the previous step, in 60 ml of methanol plus 4.7 ml of 1 N HCl plus 4.7 ml of water and the reaction stirred at room temperature for 22 hours. The reaction was submerged in an ice bath and a solid precipitated. The solid was collected by filtration and dried to give 4.55 g of a white solid. The solid was triturated with water and then dried to give the title compound (4.10 g, 89%) as a white solid, mp 205-207° C.

reactant | Thiosemicarbazide | 28.5 mmol, 2.60 g | NNC(=S)N | CH5N3S
reactant | N-methyl4-oxo-4-phenyl-butyramide | 17.4 mmol, 3.33 g | CNC(CCC(C1=CC=CC=C1)=O)=O | C11H13NO2
reactant | HCl | 1 N, 4.7 ml | Cl | ClH
reactant | water | 4.7 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | 4-[(Aminothioxomethyl)-hydrazono]-N-methyl-4-phenylbutanamide | 4.55 g | NC(=S)NN=C(CCC(=O)NC)C1=CC=CC=C1 | C12H16N4OS
